US04628024
22.8 g of 2-(2-tetradecyloxyphenyl)carbamoyl-1-naphthol was dissolved in 100 ml of dichloromethane and to the solution was added dropwise at room temperature a dichloromethane solution of the sulfenyl chloride prepared from 25 g of 1-(3-ethoxycarbonylphenyl)-5-mercaptotetrazole and 13.5 g of sulfuryl chloride. After the completion of the addition, the mixture was stirred for 5 hours and the dichloromethane solution was washed with an aqueous solution of sodium hydrogencarbonate and then with water. The dichloromethane was distilled off under reduced pressure and the residue was crystallized from methanol to obtain 26.9 g of 2-(2-tetradecyloxyphenyl)carbamoyl-4-[1-(3-ethoxycarbonylphenyl)-5-tetrazolylthio]-1-naphthol. Yield: 74.3%. Melting Point: 88° to 90° C.

reactant | 2-(2-tetradecyloxyphenyl)carbamoyl-1-naphthol | 22.8 g | C(CCCCCCCCCCCCC)OC1=C(C=CC=C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O | C31H41NO3
reactant | sulfenyl chloride | S(Cl)Cl | Cl2S
reactant | 1-(3-ethoxycarbonylphenyl)-5-mercaptotetrazole | 25 g | C(C)OC(=O)C=1C=C(C=CC1)N1N=NN=C1S | C10H10N4O2S
reactant | sulfuryl chloride | 13.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(2-tetradecyloxyphenyl)carbamoyl-4-[1-(3-ethoxycarbonylphenyl)-5-tetrazolylthio]-1-naphthol | 26.9 g, Yield: 74.3% | C(CCCCCCCCCCCCC)OC1=C(C=CC=C1)NC(=O)C1=C(C2=CC=CC=C2C(=C1)SC1=NN=NN1C1=CC(=CC=C1)C(=O)OCC)O | C41H49N5O5S
